US07846925B2
To an ice-cooled suspension of NaBH4 (204 mg, 5.4 mmol, 2 eq.) in THF (10 mL) was added dropwise 3-fluoro 4-nitro benzoic acid (500 mg, 2.7 mmol, 1 eq.) in THF (10 mL) over 30 minutes. BF3-Et2O (7.3 mmol, 2.7 eq.) was then added dropwise over 30 minutes. The solution was stirred at room temperature over night. 1N HCl was added dropwise to quench NaBH4 excess. The solvent was removed in vacuo, the residue dissolved in DCM, washed with water, brine. The organic layer was then dried over MgSO4 and the solvent removed in vacuo to give 425 mg of 3-fluoro 4-nitro benzyl alcohol (92% yield). The compound was used in the following step with no further purification.

reactant | NaBH4 | 5.4 mmol, 204 mg, 2 eq. | [BH4-].[Na+]
reactant | 3-fluoro 4-nitro benzoic acid | 2.7 mmol, 500 mg, 1 eq. | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | BF3 Et2O | 7.3 mmol, 2.7 eq. | B(F)(F)F.CCOCC
reactant | HCl | 1N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-fluoro 4-nitro benzyl alcohol | 425 mg, 92% yield | FC=1C=C(CO)C=CC1[N+](=O)[O-] | C7H6FNO3
